US04699939
Preparation of 1,5-bis[3-(3,5-dicyclohexyl-4-hydroxyphenyl)propionyloxy]-3-thiapentane
0.2 mol of methyl 3-(3,5-dicyclohexyl-4-hydroxyphenyl)propionate, 0.1 mol of 1,5-dihydroxy-3-thiapentane and 2 ml of tetrabutyl titanate are heated for 8 hours at 150° C. as described in Example 2, during which time the methanol forming distills off. After working up, the yield of product is 25.5% of theory.

reactant | methyl 3-(3,5-dicyclohexyl-4-hydroxyphenyl)propionate | 0.2 mol | C1(CCCCC1)C=1C=C(C=C(C1O)C1CCCCC1)CCC(=O)OC | C22H32O3
reactant | 1,5-dihydroxy-3-thiapentane | 0.1 mol | OCCSCCO | C4H10O2S
catalyst | tetrabutyl titanate | 2 ml | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
solvent | methanol | CO | CH4O
product | 1,5-bis[3-(3,5-dicyclohexyl-4-hydroxyphenyl)propionyloxy]-3-thiapentane | C1(CCCCC1)C=1C=C(C=C(C1O)C1CCCCC1)CCC(=O)OCCSCCOC(CCC1=CC(=C(C(=C1)C1CCCCC1)O)C1CCCCC1)=O | C46H66O6S
